US06559172B1
Preparation of (4R*,5S*)-5-(4-Methylsulfanyl-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, tosylmethylisocyanide (0.23 g, 1.20 mmol), 4-(methylthio)benzaldehyde (0.19 g, 1.26 mmol), and NaCN (5.9 mg, 0.12 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 348.4 (M+H+).

reactant | tosylmethylisocyanide | 1.20 mmol, 0.23 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | 4-(methylthio)benzaldehyde | 1.26 mmol, 0.19 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | NaCN | 0.12 mmol, 5.9 mg | [C-]#N.[Na+]
product | (4R*,5S*)-5-(4-Methylsulfanyl-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | CSC1=CC=C(C=C1)[C@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C | C17H17NO3S2
